US03965015
Preparation of 1-n-Butyl-3-(aminododecyl) urea
22 grams (.110 mole) of 1,12-diaminododecane in 300 cc ether was reacted with 5.0 g (0.0505 mole) Butyl isocyanate, as in Example 2. The precipitate is filtered, washed, and recrystallized from 250 cc alcohol containing 50 cc water. Recovered 7.8 grams. Chilled mother liquor, thereby recovering a second batch of crystals which combined with the first precipitate to give a total of 12.1 grams having a melting point of 97°C.

reactant | 1,12-diaminododecane | .110 mole, 22 grams | NCCCCCCCCCCCCN | C12H28N2
reactant | Butyl isocyanate | 0.0505 mole, 5.0 g | C(CCC)N=C=O | C5H9NO
solvent | ether | 300 cc | CCOCC | C4H10O
product | 1-n-Butyl-3-(aminododecyl) urea | C(CCC)NC(=O)NCCCCCCCCCCCCN | C17H37N3O
